US08193199B2
Prepared according to Procedure H using (8-chloro-2-(3-fluorophenyl)quinolin-3-yl)methanamine (0.030 g, 0.11 mmol), 6-chloropurine (0.019 g, 0.13 mmol, 1.2 eq) and DIEA in n-butanol (3 mL). N-((8-chloro-2-(3-fluorophenyl)quinolin-3-yl)methyl)-9H-purin-6-amine [PI3Kδ IC50=74 nM] was obtained after purification as a white solid. 1H-NMR (MeOD) δ ppm 8.41 (s, 1H), 8.13 (s, 1H), 7.88-8.02 (m, 4H), 7.59 (dd, J=4.40, 2.20 Hz, 4H), 4.80-4.98 (m, 2H), Mass Spectrum (ESI) m/e=405 (M+1).

reactant | (8-chloro-2-(3-fluorophenyl)quinolin-3-yl)methanamine | 0.11 mmol, 0.030 g | ClC=1C=CC=C2C=C(C(=NC12)C1=CC(=CC=C1)F)CN | C16H12ClFN2
reactant | 6-chloropurine | 0.13 mmol, 0.019 g, 1.2 eq | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
solvent | n-butanol | 3 mL | C(CCC)O | C4H10O
product | N-((8-chloro-2-(3-fluorophenyl)quinolin-3-yl)methyl)-9H-purin-6-amine | ClC=1C=CC=C2C=C(C(=NC12)C1=CC(=CC=C1)F)CNC1=C2N=CNC2=NC=N1 | C21H14ClFN6
